US06387896B1
Step 1 Preparation of 1-acetyl-2-t-butylindoline
2-t-Butylindoline (20.3 g, 116 mmol) (can be made according to the procedures described in J. Chem Soc. Chem. Commum. 1974, 677-678) and 4-dimethylaminopyridine (10 mg) are dissolved in pyridine (100 ml). Acetic anhydride (11.5 ml, 122 mmol) is added and the solution stirred for 2 hours. The mixture is poured into water (1 L) and the solid filtered and dried in vacuo. The title compound is obtained as white crystals (22.2 g, 88%): mp 75° C.

reactant | 2-t-Butylindoline | 116 mmol, 20.3 g | C(C)(C)(C)C1NC2=CC=CC=C2C1 | C12H17N
reactant | Acetic anhydride | 122 mmol, 11.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 1 L | O | H2O
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 1-acetyl-2-t-butylindoline | C(C)(=O)N1C(CC2=CC=CC=C12)C(C)(C)C | C14H19NO
